US07102000B2
A mixture of powdered KOH (14.06 g, 0.250 mol) in DMSO (150 mL) was stirred at 0° C. for 10 min. 7-Bromo-4,4,6-trimethyl-3,4- dihydro-1H-quinoline-2-one (33.59 g, 0.125 mol) was added cautiously, followed immediately by the addition of methyl iodide (39 mL, 0.625 mol). The reaction mixture was kept at 0° C. for 30 min then slowly warmed up to room temperature and stirred overnight at room temperature. The reaction mixture was poured into water and extracted with dichloromethane washed with water and brine, dried (MgSO4), filtered and evaporated to give 35.74 g of 7-bromo-1,4,4,6-tetramethyl-3,4-dihydro-1H-quinoline-2-one (99%) and used without further purification in the Suzuki coupling (step a). 1H NMR (300 MHz; CDCl3): 1.27 (s, 6 H), 2.37 (s, 3 H), 2.48 (s, 2 H), 3.35 (s, 3 H), 7.12 (s, 1 H), 7.16 (s, 1 H).

reactant | KOH | 0.250 mol, 14.06 g | [OH-].[K+]
reactant | 7-Bromo-4,4,6-trimethyl-3,4- dihydro-1H-quinoline-2-one | 0.125 mol, 33.59 g | BrC1=C(C=C2C(CC(NC2=C1)=O)(C)C)C | C12H14BrNO
reactant | methyl iodide | 0.625 mol, 39 mL | CI | CH3I
reactant | water | O | H2O
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 7-bromo-1,4,4,6-tetramethyl-3,4-dihydro-1H-quinoline-2-one | 35.74 g, 99% | BrC1=C(C=C2C(CC(N(C2=C1)C)=O)(C)C)C | C13H16BrNO
